US06034248
1-[(1R,2S)-2-(2-Fluorophenyl)-2-hydroxy-3-(isopropoxy dimethylsilyl)-1-methylpropyl]-3-[4-(1H-1-tetrazolyl)phenyl]-2(1H,3H)-imidazolone (1 g) was dissolved in a mixture of methanol and tetrahydrofuran (1:1, 20 ml), to which an 30% aqueous solution of hydrogen peroxide (2 ml) and sodium bicarbonate (157 mg) were added. The mixture was heated at 50° C. for 4 hours, then cooled and extracted with ethyl acetate (100 ml). The extract was washed with water (30 ml), an aqueous solution of Na2S2O3 (30 ml×2) and a saturated aqueous solution of sodium chloride (30 ml) successively, dried over magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by silica gel chromatography (eluent:hexane/ethyl acetate=1/4) and recrystallized from diethyl ether (20 ml) to give 1-[(1R,2S)-2-(2-fluorophenyl)-2,3-dihydroxy-1-methyl propyl]-3-[4-(1H-1-tetrazolyl)phenyl]-2(1H,3H)-imidazolone (440 mg) as a colorless crystalline powder.

reactant | 1-[(1R,2S)-2-(2-Fluorophenyl)-2-hydroxy-3-(isopropoxy dimethylsilyl)-1-methylpropyl]-3-[4-(1H-1-tetrazolyl)phenyl]-2(1H,3H)-imidazolone | 1 g | FC1=C(C=CC=C1)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)N1N=NN=C1)=O)(C[Si](C)(C)OC(C)C)O | C25H31FN6O3Si
reactant | sodium bicarbonate | 157 mg | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hydrogen peroxide | 2 ml | OO | H2O2
product | 1-[(1R,2S)-2-(2-fluorophenyl)-2,3-dihydroxy-1-methyl propyl]-3-[4-(1H-1-tetrazolyl)phenyl]-2(1H,3H)-imidazolone | 440 mg | FC1=C(C=CC=C1)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)N1N=NN=C1)=O)(CO)O | C20H19FN6O3
